US07176216B2
7-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-2-ethyl-3-nitropyrazolo[1,5-a]pyridine
To a solution of 7-bromo-2-ethyl-3-nitropyrazolo[1,5-a]pyridine (1.0 g) dissolved in a mixture of 1,2-dimethoxyethane (50 mL) and water (25 mL) was added 2,6-dimethoxy-4-(methoxymethyl)phenylboric acid (1.26 g), tetrakis(triphenylphosphine)palladium(0) (0.64 g) and barium hydroxide octahydrate (1.75 g), and the reaction mixture was heated and stirred for 2 hours at 80° C. To the resultant reaction mixture was added water and ethyl acetate, and remove insoluble residue was filtered out with celite. The filtrate was extracted with ethyl acetate, the organic extract was washed with brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography and the title compound (0.77 g) was obtained as yellow crystals from the n-hexane:ethyl acetate (3:1) fraction.

reactant | 7-bromo-2-ethyl-3-nitropyrazolo[1,5-a]pyridine | 1.0 g | BrC1=CC=CC=2N1N=C(C2[N+](=O)[O-])CC | C9H8BrN3O2
reactant | 2,6-dimethoxy-4-(methoxymethyl)phenylboric acid | 1.26 g | COC1=C(C(=CC(=C1)COC)OC)OB(O)O | C10H15BO6
reactant | barium hydroxide octahydrate | 1.75 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | water | 25 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.64 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-2-ethyl-3-nitropyrazolo[1,5-a]pyridine | 0.77 g | COC1=C(C(=CC(=C1)COC)OC)C1=CC=CC=2N1N=C(C2[N+](=O)[O-])CC | C19H21N3O5
